US06440995B1
(E)-(RS)-3-(2-Styryl-quinolin-4-ylamino)-propane-1,2-diol (0.23 g, 0.718 mmol) was dissolved in MeOH (25 ml) and acidified with HCl/Et2O. The reaction mixture was refluxed for 2 hours in the presence of 10% Pd/C (0.02 g) under an atmospheric pressure of hydrogen. The mixture was cooled to room temperature, the catalyst was filtered, and the filtrate was concentrated. Addition of EtOH provided (RS)-3-(2-phenethyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride (0.075 g, 29%) as a light yellow solid, m. p. 143-145° C., MS: m/e=323.3 (M+H+).

reactant | (E)-(RS)-3-(2-Styryl-quinolin-4-ylamino)-propane-1,2-diol | 0.718 mmol, 0.23 g | C(=C\C1=CC=CC=C1)/C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | C20H20N2O2
reactant | HCl Et2O | Cl.CCOCC
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 25 ml | CO | CH4O
catalyst | Pd/C | 0.02 g | [Pd] | Pd
product | (RS)-3-(2-phenethyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | 0.075 g, 29% | Cl.C(CC1=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C20H22N2O2.ClH/c23-14-17(24)13-21-20-12-16(11-10-15-6-2-1-3-7-15)22-19-9-5-4-8-18(19)20;/h1-9,12,17,23-24H,10-11,13-14H2,(H,21,22);1H
